US08835432B2
To a solution of (S)-2-(1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione (1.0 g, 2.8 mmol) in EtOH (10 mL) was added dropwise NH2NH2 (10 eq, 0.88 mL) at rt before warmed up to 90° C. for 30 min. After cooling to rt, the reaction mixture was concentrated, partitioned between EtOAc (20 mL) and water (5 mL). The organic layer was separated, washed with water, brine, dried over Na2SO4 and concentrated to give a colorless oil, which was dissolved in THF (10 mL) and treated with BOC2O (1.1 eq, 0.68 g) and TEA (1.0 eq, 0.39 mL) at reflux. After cooling to rt, the reaction mixture was concentrated and purified by column chromatography on silica gel (EtOAc/hexane, 1/9) to give a white solid (S)-tert-butyl (1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)carbamate (0.70 g, 76%). Mass Spectrum (ESI) m/e=325 (M+1).

reactant | (S)-2-(1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 2.8 mmol, 1.0 g | ClC1=NC2=CC(=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)F | C19H12ClFN2O2
reactant | NH2NH2 | 0.88 mL, 10 eq | NN | H4N2
reactant | BOC2O | 0.68 g, 1.1 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl (1-(2-chloro-7-fluoroquinolin-3-yl)ethyl)carbamate | 0.70 g, 76% | ClC1=NC2=CC(=CC=C2C=C1[C@H](C)NC(OC(C)(C)C)=O)F | C16H18ClFN2O2
